US06894061B2
5-[(4-Methoxy-3,5-dimethylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin
The title compound was prepared from phenanthridine (3.58 g, 20 mmol), 1.4 M methyllithium in diethyl ether (14.5 mL, 20.3 mmol), and 4-methoxy-3,5-dimethylbenzenesulfonyl chloride (4.69 g, 20 mmol) according to the procedure and in the same manner as described in Example 1, step a. The crude product was purified by flash column chromatography on silica gel, eluting with a mixture of ethyl acetate-hexane (1:8) to yield 5-[(4-methoxy-3,5-dimethylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (4.86 g, 12.4 mmol, 62%) as a white solid;

reactant | phenanthridine | 20 mmol, 3.58 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | methyllithium | 1.4 M | C[Li]
reactant | diethyl ether | 20.3 mmol, 14.5 mL | C(C)OCC | C4H10O
reactant | 4-methoxy-3,5-dimethylbenzenesulfonyl chloride | 20 mmol, 4.69 g | COC1=C(C=C(C=C1C)S(=O)(=O)Cl)C | C9H11ClO3S
product | 5-[(4-methoxy-3,5-dimethylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 12.4 mmol, 4.86 g, 62% | COC1=C(C=C(C=C1C)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C)C | C23H23NO3S
